US07550546B2
Synthesis of 5-acetoxy methyl-2-norbornene (NBCH2OCOCH3)
Dicyclopentadiene 1094 g (manufactured by Wako Pure Chemical Industries, Ltd.), 1772 g of allyl acetate (manufactured by Wako Pure Chemical Industries, Ltd.), 1 g of hydroquinone (manufactured by Wako Pure Chemical Industries, Ltd.) were placed into an autoclave, and a space was replaced by nitrogen. The mixture was stirred at an internal temperature of 180° C. in a sealed system for 9 hours (rotating speed=300 rpm). The reaction mixture was filtered, and volatile components were evaporated. The residue was subjected to precision distillation (length of column=120 cm, filler=Propak, reflux ratio=10/1, pressure=10 mmHg, trap temperature=89° C.), thereby obtaining colorless and transparent NBCH2OCOCH3. The peak purity thereof was measured by gas chromatography, and the NBCH2OCOCH3 has the purity of 99.9% and endo/exo ratio of 83/17.

reactant | Dicyclopentadiene | 1094 g | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | allyl acetate | 1772 g | C(C)(=O)OCC=C | C5H8O2
reactant | hydroquinone | 1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 5-acetoxy methyl-2-norbornene | C(C)(=O)OCC1C2C=CC(C1)C2 | C10H14O2
